US08314088B2
8-benzyl-N-methyl-N-(1-methylethyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine
To a solution of potassium tert-butoxide (5.8 g) in DMF (45 mL) was added dropwise a solution of 2-[benzyl({3-chloro-5-[methyl(1-methylethyl)amino]pyrazin-2-yl}methyl)amino]ethanol (15.1 g) in DMF (30 mL) at 0° C., and the mixture was stirred for 1.5 hr. Water (150 ml) was added, and the mixture was extracted with ethyl acetate. The aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by basic silica gel column chromatography (eluent: 10% ethyl acetate/hexane) to give the title compound (11 g, 87%) as a pale-yellow oil.

reactant | potassium tert-butoxide | 5.8 g | CC(C)([O-])C.[K+]
reactant | 2-[benzyl({3-chloro-5-[methyl(1-methylethyl)amino]pyrazin-2-yl}methyl)amino]ethanol | 15.1 g | C(C1=CC=CC=C1)N(CCO)CC1=NC=C(N=C1Cl)N(C(C)C)C | C18H25ClN4O
reactant | Water | 150 ml | O | H2O
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 8-benzyl-N-methyl-N-(1-methylethyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 11 g, 87% | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N(C(C)C)C | C18H24N4O
